US06809119B2
4-Benzylamino-benzoic acid 2-(phenylsulfonyl)hydrazide
4Aminobenzoic acid 2-(phenylsulfonyl)hydrazide (100 mg, 0.34 mmol) was dissolved in THF (3.4 mL), treated with acetic acid (20 μL, 0.34 mmol) and benzaldehyde (23 μL, 0.34 mmol), and stirred for 5 minutes. Sodium triacetoxyborohydride (87 mg, 0.41 mmol) was added, and the reaction was stirred overnight. The reaction was diluted with EtOAc (100 mL), washed with saturated sodium bicarbonate solution and brine, dried over Na2SO4, and concentrated in vacuo. The residue was chromatographed on silica gel eluting with 3:2 hexanes/EtOAc to give 23 mg (18%) of the desired product. MS: 382.0 (M+1 for C20H19N3O3S1); mp 214-215° C.; TLC (SiO2) Rf=0.43 (1:1 hexane/EtOAc); HPLC (C18 column, 1:1 CH3CN/H2O+0.1% TFA) 99.04%, RT=8.309 min. HRMS (calc) 382.1225 (found) 382.1222; IR (KBr, cm−1): 3404, 3355, 3107, 1657, 1607, 1159. 1H NMR (DMSO-d6) δ 4.25 (d, 2H, J=5.6 Hz), 6.47 (d, 2H, J=8.3 Hz), 6.86-6.88 (m, 1H), 7.26-7.28 (m, 4H), 7.37-7.40 (m, 2H), 7.42-7.45 (m, 2H), 7.52-7.56 (m, 1H), 7.74 (d, 2H, J=7.8 Hz), 9.58 (s, 1H) 9.68 (s, 1H, 10.13 (s, 1H).

reactant | 4Aminobenzoic acid 2-(phenylsulfonyl)hydrazide | 0.34 mmol, 100 mg | C1(=CC=CC=C1)S(=O)(=O)NNC(C1=CC=C(C=C1)N)=O | C13H13N3O3S
reactant | acetic acid | 0.34 mmol, 20 μL | C(C)(=O)O | C2H4O2
reactant | benzaldehyde | 0.34 mmol, 23 μL | C(C1=CC=CC=C1)=O | C7H6O
reactant | Sodium triacetoxyborohydride | 0.41 mmol, 87 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | THF | 3.4 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 4-Benzylamino-benzoic acid 2-(phenylsulfonyl)hydrazide | 23 mg, 18% | C1(=CC=CC=C1)S(=O)(=O)NNC(C1=CC=C(C=C1)NCC1=CC=CC=C1)=O | C20H19N3O3S
